US06903126B2
6-[[1-(4-Methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid
128 mg of 6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]-hexanoic acid methyl ester was reacted with lithium hydroxide according to general operating instructions 3. 98 mg was obtained.

reactant | 6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]-hexanoic acid methyl ester | 128 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SCCC)C2=CC=C(C=C2)C)C1)=O | C24H30N2O3S
reactant | lithium hydroxide | [OH-].[Li+]
product | 6-[[1-(4-Methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid | CC1=CC=C(C=C1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)O)SCCC | C23H28N2O3S
